US04110345
Preparation of 2,2-Difluoro-1,3-benzodioxole-5-acetonitrile
To a solution of 2,2-difluoro-5-bromomethyl-1,3-benzodioxole (41.0 g) in absolute alcohol (160 ml) at 60° to 70° C a hot solution of potassium cyanide (22.1 g, 0.34 mole) in water (30 ml) is added. There is a slight exotherm and within 5 minutes potassium bromide separates out of the reaction mixture. The reaction mixture is refluxed for 1.5 hours, cooled and added to ice-water. The mixture is extracted with ether (3×100 ml), the combined extracts are washed with water (2×50 ml), dried over sodium sulfate and evaporated to afford a dark oil. Vacuum distillation yields 21.2 g of title product; b.p. 64° to 67° C (at 0.03 mm); i.r. (neat) 2255 cm-1 ; nmr (CCl4) δ 3.68 (S, 2H), 7.00 (S, 3H).

reactant | 2,2-difluoro-5-bromomethyl-1,3-benzodioxole | 41.0 g | FC1(OC2=C(O1)C=CC(=C2)CBr)F | C8H5BrF2O2
reactant | potassium cyanide | 0.34 mole, 22.1 g | [C-]#N.[K+]
reactant | potassium bromide | [Br-].[K+]
solvent | water | 30 ml | O | H2O
product | 2,2-Difluoro-1,3-benzodioxole-5-acetonitrile | 21.2 g | FC1(OC2=C(O1)C=CC(=C2)CC#N)F | C9H5F2NO2
